US08314098B2
(Step 1): 2-{4-(4-t-Butoxycarbonyl-piperazin-1-yl)-phenyl}-5-chloro-7-morpholin-4-yl-pyrazolo[1,5-a]pyrimidine
There was dissolved, in toluene (3 mL), 2-(4-bromo-phenyl)-5-chloro-7-morpholin-4-yl-pyrazolo[1,5-a]pyrimidine (56.2 mg, 0.143 mM) in an argon gas atmosphere, then there were added, to the resulting solution, a solution of sodium t-butoxide (20.6 mg, 0.215 mM), tris(dibenzylidene acetone) di-palladium (7.2 mg, 0.0079 mM) and tri-t-butyl phosphine (4.7 μL, 0.023 mM) in toluene (0.30 mL) and t-butyl 1-piperazine carboxylate (39.9 mg, 0.215 mM) and the resulting mixture was stirred at 90° C. for 30 minutes. This reaction liquid was diluted with a saturated aqueous common salt solution and then extracted with ethyl acetate. The extracts thus obtained were combined, dried over anhydrous sodium sulfate, then the solvent was distilled off and the resulting residue was purified by the silica gel column chromatography (ethyl acetate/hexane=1:3) to thus give the title compound (40.5 mg, yield: 57%).

reactant | 2-(4-bromo-phenyl)-5-chloro-7-morpholin-4-yl-pyrazolo[1,5-a]pyrimidine | 0.143 mM, 56.2 mg | BrC1=CC=C(C=C1)C1=NN2C(N=C(C=C2N2CCOCC2)Cl)=C1 | C16H14BrClN4O
reactant | sodium t-butoxide | 0.215 mM, 20.6 mg | CC(C)([O-])C.[Na+]
reactant | tri-t-butyl phosphine | 0.023 mM, 4.7 μL | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
reactant | t-butyl 1-piperazine carboxylate | 0.215 mM, 39.9 mg | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 0.30 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylidene acetone) di-palladium | 0.0079 mM, 7.2 mg | [Pd].[Pd].C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1
product | 2-{4-(4-t-Butoxycarbonyl-piperazin-1-yl)-phenyl}-5-chloro-7-morpholin-4-yl-pyrazolo[1,5-a]pyrimidine | 40.5 mg, yield: 57% | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC=C(C=C1)C1=NN2C(N=C(C=C2N2CCOCC2)Cl)=C1 | C25H31ClN6O3
